US05314640
27 g of sodium nitrite was dissolved in 205 ml of sulfuric acid and cooled to 10° C. or less, and then 238 ml of acetic acid was added. At 20° to 25° C., 65 g of 2-fluoro-4-iodoaniline was added to the solution, and then the solution was agitated for one hour. A second solution was made by dissolving 83 g of copper sulfate pentahydrate in 20.5 ml of water, to which was added 140 g of ice, and this solution was added to the first. A third solution containing 88 g of potassium cyanide dissolved in 200 ml of water, 500 g of sodium bicarbonate, and 200 ml of benzene was added to the first solution, and a diazonium salt sulfuric acid solution was added therein. After agitation at room temperature for 3 hours, a sodium hydroxide aqueous solution was added to dissolve the crystals. After being extracted with chloroform, the crystals were washed three times alternating with a 10% sodium hydroxide solution and water. After distillation of the chloroform, the residue was extracted with hexane, and the hexane was distilled off. This residue was subjected to vacuum distillation (95° to 110° C./15 mmHg), and further recrystallized to obtain 20 g of 1-cyano-2-fluoro-4-iodobenzene.

reactant | sodium nitrite | 27 g | N(=O)[O-].[Na+]
reactant | 2-fluoro-4-iodoaniline | 65 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | potassium cyanide | 88 g | [C-]#N.[K+]
reactant | sodium bicarbonate | 500 g | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 205 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 20.5 ml | O | H2O
solvent | water | 200 ml | O | H2O
catalyst | copper sulfate pentahydrate | 83 g | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | acetic acid | 238 ml | C(C)(=O)O | C2H4O2
product | 1-cyano-2-fluoro-4-iodobenzene | 20 g | C(#N)C1=C(C=C(C=C1)I)F | C7H3FIN
